US09388189B2
(S)—N-(3-Hydroxyphenyl)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)—N-(3-Methoxyphenyl)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide (80 mg, 72% purity, 0.12 mmol) was treated with boron tribromide (1M in dichloromethane, 0.6 ml, 0.6 mmol) in dichloromethane (2 ml) according to the method described in Example 23. The residue was purified using SP1® Purification System (0% to 10%, DCM-MeOH) to give 8 mg (14% yield) as a solid. Purity 95%.

reactant | (S)—N-(3-Methoxyphenyl)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 0.12 mmol, 80 mg | COC=1C=C(C=CC1)NC(=O)C=1C(=NC=NC1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H25N7O3
reactant | boron tribromide | 0.6 mmol, 1M, 0.6 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)—N-(3-Hydroxyphenyl)-4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 14% yield | OC=1C=C(C=CC1)NC(=O)C=1C(=NC=NC1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C26H23N7O3
